US09107916B2
A. (2E)-3-(dimethylamino)-1-(4-methylphenyl)prop-2-en-1-one
A solution of 1-(4-methylphenyl)ethanone (1.34 g, 10 mmol) in DMF-DMA (10 mL) was stirred at 100° C. overnight. The reaction mixture was cooled, concentrated, and purified by flash column chromatography (PE/EA=4:1˜2:1) to give the title compound (1.40 g, 74%) as a yellow solid. 1H NMR (400 MHz, CDCl3): δ 2.37 (3H, s), 2.95-3.11 (6H, m), 6.72 (1H, d, J=12.0 Hz), 7.21 (2H, d, J=8.0 Hz), 7.78-7.82 (m, 3H).

reactant | 1-(4-methylphenyl)ethanone | 10 mmol, 1.34 g | CC1=CC=C(C=C1)C(C)=O | C9H10O
reactant | DMF-DMA | 10 mL | CN(C)C(OC)OC | C5H13NO2
product | (2E)-3-(dimethylamino)-1-(4-methylphenyl)prop-2-en-1-one | 1.40 g, 74% | CN(/C=C/C(=O)C1=CC=C(C=C1)C)C | C12H15NO
